US07759337B2
Synthesis of N-cyclopropyl-4-methyl-3-(1-(piperidin-1-yl)phthalazin-6-yl)benzamide
A mixture of 6-bromo-1-(piperidin-1-yl)phthalazine (0.12 g, 0.40 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.12 g, 0.4 mmol), tetrakis(triphenylphosphine)palladium (24 mg, 0.02 mmol) and 2M potassium carbonate (0.6 mL, 1.2 mmol) in 5 mL DME/EtOH (4:1) was stirred at 90° C. for 2 h. The mixture was transferred directly to silica gel and purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOH/DCM to 10% 2M ammonia in MeOH/DCM to give the title compound (0.13 g) as yellow solid. Found MS (ES+): 387(M+H)+.

reactant | 6-bromo-1-(piperidin-1-yl)phthalazine | 0.40 mmol, 0.12 g | BrC=1C=C2C=NN=C(C2=CC1)N1CCCCC1 | C13H14BrN3
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.4 mmol, 0.12 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1.2 mmol, 2M, 0.6 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-4-methyl-3-(1-(piperidin-1-yl)phthalazin-6-yl)benzamide | 0.13 g | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCCCC1)=O | C24H26N4O
